US07888364B2
100 mg of N-(4-chloro-3-(pyridin-2-yl)phenyl)-2-methyl-6-(piperazin-1-yl)nicotinamide was coupled to glycolic acid via Procedure G. The product was purified on reverse phase HPLC to yield N-(4-chloro-3-(pyridin-2-yl)phenyl)-6-(4-(2-hydroxyacetyl)piperazin-1-yl)-2-methylnicotinamide. MS (Q1) 466.3 (M)+.

reactant | N-(4-chloro-3-(pyridin-2-yl)phenyl)-2-methyl-6-(piperazin-1-yl)nicotinamide | 100 mg | ClC1=C(C=C(C=C1)NC(C1=C(N=C(C=C1)N1CCNCC1)C)=O)C1=NC=CC=C1 | C22H22ClN5O
reactant | glycolic acid | C(CO)(=O)O | C2H4O3
product | N-(4-chloro-3-(pyridin-2-yl)phenyl)-6-(4-(2-hydroxyacetyl)piperazin-1-yl)-2-methylnicotinamide | ClC1=C(C=C(C=C1)NC(C1=C(N=C(C=C1)N1CCN(CC1)C(CO)=O)C)=O)C1=NC=CC=C1 | C24H24ClN5O3
